US09340506B2
5-bromopyridine-2-thiol (0.5 g, 3.44 mmol) was dissolved in anhydrous DMSO (10 mL). CS2CO3 (2.23 g, 6.89 mmol) was added and stirred for 5 minutes followed by addition of bromocyclopentane (0.73 mL, 6.89 mmol). The reaction mixture was stirred for 30 min. at room temperature. The reaction mixture was poured on ice cold water (25 mL) and extracted with MTBE (2×25 mL) washed with water and brine dried over anhydrous sodium sulfate, filtered and concentrated to obtain a crude product which was purified by column chromatography over silica gel using 2-5% ethyl acetate in hexanes as eluent to provide 5-bromo-2-cyclopentylsulfanyl-pyridine (0.7 g).

reactant | 5-bromopyridine-2-thiol | 3.44 mmol, 0.5 g | BrC=1C=CC(=NC1)S | C5H4BrNS
reactant | bromocyclopentane | 6.89 mmol, 0.73 mL | BrC1CCCC1 | C5H9Br
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 5-bromo-2-cyclopentylsulfanyl-pyridine | 0.7 g | BrC=1C=CC(=NC1)SC1CCCC1 | C10H12BrNS
